data/polar.json
{"reaction_name": "Cyanomethyl carbanion formation", "rsmi": "[N:1]#[C:3][CH2:4][H:5].[NH2-:2]>>[N:1]#[C:3][CH2-:4].[NH2:2][H:5]", "epd": [["LP-/Sigma+", [2], [2, 5]], ["Sigma-/LP+", [4, 5], [4]]]}
{"reaction_name": "Gomberg–Bachmann arylation", "rsmi": "[c:1]1([N+:2]#[N:3])[cH:4][cH:5][cH:6][cH:7][cH:8]1.[c:9]1([H:15])[cH:10][cH:11][cH:12][cH:13][cH:14]1>>[c:1]1([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[cH:4][cH:5][cH:6][cH:7][cH:8]1.[N:2]#[N:3].[H+:15]", "epd": [["Sigma-/LP+", [1, 2], [2]], ["Sigma-/Sigma+", [9, 15], [1, 9]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[Cl:3][C:17]1=[C:21]([Cl:13])[C:6](=[O:9])[C:5](=[O:8])[C:22]([Cl:14])=[C:18]1[Cl:4].[cH:1]1[c:15]2[cH:12][cH:23][c:19]([S-:7])[cH:11][c:20]2[cH:10][cH:2][cH:16]1>>[cH:1]1[c:15]2[cH:12][cH:23][c:19]([S:7][C:5]3([O-:8])[C:6](=[O:9])[C:21]([Cl:13])=[C:17]([Cl:3])[C:18]([Cl:4])=[C:22]3[Cl:14])[cH:11][c:20]2[cH:10][cH:2][cH:16]1", "epd": [["LP-/Sigma+", [7], [7, 5]], ["Pi-/LP+", [5, 8], [8]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N:1]1([c:27]2[cH:33][cH:4][n:44][cH:5][cH:34]2)[CH2:22][CH2:37][CH2:7][CH:24]1[C:31]([c:28]1[cH:11][cH:17][cH:25][cH:18][cH:12]1)([c:29]1[cH:13][cH:19][cH:26][cH:20][cH:14]1)[F:36].[O:2]=[S:8](=[O:3])([C:10]([F:41])([F:42])[F:43])[c:38]1[cH:30][c:9]2[n+:15]([O-:6])[o:40][n:21][c:45]2[c:35]([N+:23]([O-:16])=[O:32])[cH:39]1>>[N+:1]1(=[c:27]2[cH:33][cH:4][n:44]([CH:30]3[c:9]4[n+:15]([O-:6])[o:40][n:21][c:45]4[C:35](=[N+:23]([O-:16])[O-:32])[CH:39]=[C:38]3[S:8](=[O:2])(=[O:3])[C:10]([F:41])([F:42])[F:43])[cH:5][cH:34]2)[CH2:22][CH2:37][CH2:7][CH:24]1[C:31]([c:28]1[cH:11][cH:17][cH:25][cH:18][cH:12]1)([c:29]1[cH:13][cH:19][cH:26][cH:20][cH:14]1)[F:36]", "epd": [["LP-/Pi+", [1], [1, 27]], ["Pi-/LP+", [23, 32], [32]], ["Pi-/Pi+", [27, 34], [5, 34]], ["Pi-/Pi+", [35, 39], [23, 35]], ["Pi-/Pi+", [30, 38], [38, 39]], ["Pi-/Sigma+", [5, 44], [30, 44]]]}
{"reaction_name": "Ferrier rearrangement", "rsmi": "[O:1]([H:4])[CH3:10].[O:2]([CH3:7])[CH:11]1[CH:8]=[CH:6][O:5][CH2:3][CH2:9]1>>[O:1]([CH:6]1[O:5][CH2:3][CH2:9][CH:11]=[CH:8]1)[CH3:10].[O:2]([H:4])[CH3:7]", "epd": [["Sigma-/Sigma+", [2, 11], [2, 4]], ["Sigma-/LP+", [1, 4], [1]], ["LP-/Sigma+", [1], [1, 6]], ["Pi-/Pi+", [6, 8], [8, 11]]]}
{"reaction_name": "Isocyanide addition to iminium ions", "rsmi": "[CH2:3]=[N+:7]([CH3:5])[CH3:6].[CH3:1][N+:2]#[C-:4]>>[CH3:1][N+:2]#[C:4][CH2:3][N:7]([CH3:5])[CH3:6]", "epd": [["LP-/Sigma+", [4], [3, 4]], ["Pi-/LP+", [3, 7], [7]]]}
{"reaction_name": "Quinoline SNAr substitution", "rsmi": "[NH2-:8].[c:1]12[n:2][cH:12][cH:4][cH:7][c:3]1[cH:10][c:6]([Cl:5])[cH:9][cH:11]2>>[Cl-:5].[c:1]12[n:2][cH:12][cH:4][cH:7][c:3]1[cH:10][c:6]([NH2:8])[cH:9][cH:11]2", "epd": [["LP-/Sigma+", [8], [6, 8]], ["Sigma-/LP+", [5, 6], [5]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[Cl-:3].[cH:1]1[cH:8][cH:2][c:4]2[c:9]([o+:5][c:7](-[c:15]3[cH:12][cH:10][cH:16][cH:11][cH:13]3)[cH:6][cH:14]2)[cH:17]1>>[cH:1]1[cH:8][cH:2][c:4]2[c:9]([cH:17]1)[O:5][C:7]([c:15]1[cH:12][cH:10][cH:16][cH:11][cH:13]1)=[CH:6][CH:14]2[Cl:3]", "epd": [["LP-/Sigma+", [3], [3, 14]], ["Pi-/Pi+", [14, 6], [6, 7]], ["Pi-/LP+", [7, 5], [5]]]}
{"reaction_name": "Acyloxonium-assisted substitution", "rsmi": "[CH3:1][C:6](=[O:2])[O:4][CH2:5][CH2:3][Br:8].[Cl-:7]>>[Br-:8].[CH3:1][C:6](=[O:2])[O:4][CH2:5][CH2:3][Cl:7]", "epd": [["LP-/Sigma+", [7], [3, 7]], ["Sigma-/LP+", [3, 8], [8]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[N:1]1([c:23]2[cH:30][cH:2][n:40][cH:3][cH:31]2)[CH2:19][CH2:35][CH2:5][CH:20]1[C:27]([c:24]1[cH:10][cH:15][cH:21][cH:16][cH:11]1)([c:25]1[cH:12][cH:17][cH:22][cH:18][cH:13]1)[F:34].[n+:4]1([CH3:26])[c:6]2[cH:28][cH:36][cH:32][cH:8][c:38]2[cH:14][c:39]2[c:7]1[cH:29][cH:37][cH:33][cH:9]2>>[N+:1]1(=[c:23]2[cH:30][cH:2][n:40]([CH:14]3[c:38]4[c:6]([cH:28][cH:36][cH:32][cH:8]4)[N:4]([CH3:26])[c:7]4[cH:29][cH:37][cH:33][cH:9][c:39]43)[cH:3][cH:31]2)[CH2:19][CH2:35][CH2:5][CH:20]1[C:27]([c:24]1[cH:10][cH:15][cH:21][cH:16][cH:11]1)([c:25]1[cH:12][cH:17][cH:22][cH:18][cH:13]1)[F:34]", "epd": [["LP-/Pi+", [1], [1, 23]], ["Pi-/LP+", [4, 6], [4]], ["Pi-/Pi+", [28, 36], [6, 28]], ["Pi-/Pi+", [8, 32], [32, 36]], ["Pi-/Pi+", [14, 38], [8, 38]], ["Pi-/Sigma+", [3, 40], [14, 40]], ["Pi-/Pi+", [23, 31], [3, 31]]]}
